US04703053
A mixture of 5.0 g (0.023 mole) of 3,6-dimethoxy-2-benzofurancarboxylic acid and 8.0 g (0.049 mole) of 1,1-carbonylbis(1H-imidazole) in 60 ml of N,N-dimethylformamide is stirred and warmed on the steam bath for 20 minutes. The mixture is cooled to room temperature, 2.5 g (0.024 mole) of 5-aminotetrazole monohydrate is added, and the new mixture is again heated for 20 minutes. The reaction mixture is cooled, added to 350 g of ice/water and acidified with 4.0 N hydrochloric acid to precipitate the tetrazole product. The precipitate is filtered, washed with 50% aqueous ethanol, and recrystallized from aqueous N,N-dimethylformamide to yield 2.8 g (43% yield) of the analytically pure 3,6-dimethoxy-N- 1Htetrazol-5-yl-2-benzofurancarboxamide, mp 238° C.-dec.

reactant | 3,6-dimethoxy-2-benzofurancarboxylic acid | 0.023 mole, 5.0 g | COC1=C(OC2=C1C=CC(=C2)OC)C(=O)O | C11H10O5
reactant | 5-aminotetrazole monohydrate | 0.024 mole, 2.5 g | O.NC1=NN=NN1
reactant | hydrochloric acid | 4.0 N | Cl | ClH
reactant | N,N-dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | 1Htetrazol-5-yl-2-benzofurancarboxamide | 43% yield | N1N=NN=C1C1=C(OC2=C1C=CC=C2)C(=O)N | C10H7N5O2
